US07759337B2
A mixture of (S)-6-bromo-1-(3-methylmorpholino)phthalazine (1.60 g, 5.2 mmol), bis(pinacolato)diboron (2.0 g, 7.8 mmol) and potassium acetate (2.5 g, 26 mmol) in DMF (25 mL) was degassed with N2 for 20 min. It was then treated with 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (0.38 g, 0.52 mmol). The reaction mixture was stirred at 85° C. under nitrogen for 18 h. After cooling to ambient, the reaction mixture was diluted with ethyl acetate (50 mL, and filtered through a Celite® pad, and rinsed with additional ethyl acetate (2×10 mL). The filtrate was concentrated. The residue was treated with diethyl ether (50 mL) and 1 N aqueous HCl (50 mL), and then filtered through a Celite pad. The filtrate was transferred to a separatory funnel, the aqueous phase was separated, concentrated under vacuum and the brown residue was purified on a reversed phased HPLC (5-90% [0.1% TFA in acetonitrile] in [0.1% TFA in water]) to give (S)-1-(3-methylmorpholino)phthalazin-6-ylboronic acid as a light yellow amorphous solid. MS (ESI, pos.ion) m/z: 274.0 (M+1).

reactant | (S)-6-bromo-1-(3-methylmorpholino)phthalazine | 5.2 mmol, 1.60 g | BrC=1C=C2C=NN=C(C2=CC1)N1[C@H](COCC1)C | C13H14BrN3O
reactant | bis(pinacolato)diboron | 7.8 mmol, 2.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 26 mmol, 2.5 g | C(C)(=O)[O-].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.52 mmol, 0.38 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-1-(3-methylmorpholino)phthalazin-6-ylboronic acid | C[C@H]1COCCN1C1=NN=CC2=CC(=CC=C12)B(O)O | C13H16BN3O3
